*V1 saw 0 PWL(0m 12 33m 5.5) r=33m

*V1 saw 0 PULSE(12 5.5 0 0 0 11m 33m)

*V1 saw 0 SINE(8.75 3.25 30.0)

V1 saw 0 DC 0 EXTERNAL

R1 base N002 10k
R2 base saw 100k
C1 N002 saw 10n
Q1 out base cap 0 BC556B
R3 N001 cap 22k
R4 out N003 10k
C2 cap 0 1u
V2 N003 0 5.33
V3 N001 0 12

.tran 1e-5 0.1 0
.print tran v(saw), v(out)

.model BC556B PNP(IS=3.83E-14 NF=1.008 ISE=1.22E-14 NE=1.528 BF=344.4 IKF=0.08039 VAF=21.11 NR=1.005 ISC=2.85E-13 NC=1.28 BR=14.84 IKR=0.047 VAR=32.02 RB=1 IRB=1.00E-06 RBM=1 RE=0.6202 RC=0.5713 XTB=0 EG=1.11 XTI=3 CJE=1.23E-11 VJE=0.6106 MJE=0.378 TF=5.60E-10 XTF=3.414 VTF=5.23 ITF=0.1483 PTF=0 CJC=1.08E-11 VJC=0.1022 MJC=0.3563 XCJC=0.6288 TR=1.00E-32 CJS=0 VJS=0.75 MJS=0.333 FC=0.8027 Vceo=65 Icrating=100m mfg=Philips)
.backanno
.end
